US05998668
Into a 100-ml autoclave (made of Hastelloy) were introduced 20 g of methyl 3-oxooctanoate (manufactured by Inoue Perfumery Mfg. Co., Ltd., Japan) and 40 ml of methanol. The atmosphere in the autoclave was replaced with nitrogen gas. Thereto was added a solution prepared by dissolving 150 mg of Ru2Cl4 ((+)-(T)BINAP)2Et3N as a ruthenium-optically active phosphine complex in 1.2 ml of methylene chloride. Asymmetric hydrogenation was conducted at a reaction temperature of 65° C. and a hydrogen pressure of 30 atm. After the reaction mixture was thus reacted for 6 hours, it was taken out of the autoclave. The methanol was distilled off, and the residue was subjected to vacuum distillation to obtain 19.2 g of methyl (R)-3-hydroxyoctanoate. Yield, 95%.

reactant | methyl 3-oxooctanoate | 20 g | O=C(CC(=O)OC)CCCCC | C9H16O3
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | methylene chloride | 1.2 ml | C(Cl)Cl | CH2Cl2
catalyst | ruthenium | [Ru] | Ru
product | methyl (R)-3-hydroxyoctanoate | 19.2 g | O[C@@H](CC(=O)OC)CCCCC | C9H18O3
